Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tetracycline Analogues
 
Attending: ___.
 
Chief Complaint:
Trauma-fall, R sided chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presents from ___ s/p fall from standing with 
multiple
right-sided rib fractures on CT. Patient reports he was bending
over to pick up something when he fell over onto his right side.
There was a head strike, but no loss of consciousness. He
currently complains of right posterior rib pain. Denies chest
pain or shortness of breathing. Has been using his IS without
difficulty. 
 
Past Medical History:
BENIGN PROSTATIC HYPERTROPHY                                    
GLAUCOMA                                                        
MACULAR DEGENERATION                                            
PROSTATE CANCER

Past surgical history:   
INGUINAL HERNIA                                       ___      
ERCP SPHINCTEROTOMY                                   ___      
TRANSURETHRAL PROSTATECTOMY                           ___      
EYE SURGERY                                                     
HEMORRHOIDECTOMY                                       
 
Social History:
Marital status:     Widowed                                     
Lives with:         Alone; Other:                               
Lives in:           Group Setting                               
Work: ___
Multiple partners:  ___                                      
___ activity:    Denies                                      
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      N/A                                         
Tobacco use:        Former smoker                               
Tobacco Use         quit ___ years ago                           
Comments:                                                       
Smoking cessation   No                                          
counseling offered:                                             
Alcohol use:        Present                                     
drinks per week:    7                                           
Alcohol use         ___                                   
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities                                  
Seat belt/vehicle   Always                                      
restraint use:                                                  
Bike helmet use:    N/A   
 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___  RUPTURED GALL                             
                      BLADDER                                   
Father   ___ ___  
 
Physical Exam:
Admission: 
Vitals-  99    70    123/70     16    98% RA 
GEN: NAD, very thin appearing male lying in bed
HEENT: EOMI, no scleral icterus
CV: RRR
PULM: non-labored breathing
ABD: soft, NT/ND
EXT: no edema
NEURO: A&Ox3
PSYCH: appropriate mood, appropriate affect

Discharge: 
Vitals: T 98.2 BP 130/70 HR 66 RR 18 O2Sat 96RA
GEN: NAD, very thin appearing sitting in chair
HEENT: EOMI, no scleral icterus, 
CV: RRR
PULM: non-labored breathing, mild TTP right rib fractures
ABD: soft, NT/ND
EXT: no edema
NEURO: A&Ox3
PSYCH: appropriate mood, appropriate affect

 
Pertinent Results:
___ 07:20AM BLOOD WBC-9.9 RBC-3.97* Hgb-12.5* Hct-35.8* 
MCV-90 MCH-31.5 MCHC-34.9 RDW-14.6 RDWSD-47.8* Plt ___
___ 07:20AM BLOOD Glucose-83 UreaN-17 Creat-0.7 Na-142 
K-4.0 Cl-104 HCO3-26 AnGap-12
___ 07:20AM BLOOD Calcium-8.5 Phos-2.8 Mg-2.0

Imaging: 

CT C-spine (___): 

IMPRESSION:
1. No acute fracture or traumatic subluxation.
2. Diffuse osteopenia and lucency within the C2 vertebra.  While
the lucency could be due to osteopenia or subarticular cyst,
clinical correlation recommended to exclude conditions such as
multiple myeloma.
3. Multilevel degenerative changes including mild 
anterolisthesis
of C7 over T1.
4. Deformity of the right first rib likely due to a healing
likely insufficiency fracture.

CT Torso (___): 

IMPRESSION:
1. Acute minimally displaced right posterior rib fractures
involving the eleventh and twelfth ribs.  Possible nondisplaced
right sixth rib fracture.
2. Severe compression deformity of the T11 vertebral body of
uncertain chronicity.  No retropulsion.
3. Diffuse sclerotic osseous lesions as described above highly
concerning for metastatic disease. Enlarged left paraaortic
retroperitoneal lymph node.
4. Small nonhemorrhagic bilateral pleural effusions.  No
pneumothorax.
5. Left lung base opacity represent aspiration or atelectasis.
6. Scattered pulmonary nodules measuring up to 5 mm.  Given
apparent metastatic disease, follow-up chest CT in 3 months 
could
be obtained to assess stability if clinically relevant.
7. Infrarenal abdominal aortic aneurysm measuring up to 32 mm.
8. Cholelithiasis.

 
Brief Hospital Course:
The patient presented to Emergency Department on ___ after a 
fall with imaging demonstrating right sided rib fractures: 
minimally displaced ___, and non-displaced ___. Patient was 
by the Acute Care Surgery Service in the ED and was admitted to 
the service for pain control, pulmonary toilet, and physical 
therapy consult. Given findings, the patient was taken to the 
operating room for_______. There were no adverse events in the 
operating room; please see the operative note for details. Rib 
fractures were managed non-operatively. Of note, CT demonstrated 
diffused sclerotic osseous lesions concerning for metastatic 
disease, along with enlarged left paraaortic retroperitoneal 
lymph node, which PCP. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed oral acetaminophen and 
lidocaine patch. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation to bed and incentive spirometry were 
encouraged throughout hospitalization. No supplemental oxygen 
was needed during his stay as he was oxygenating well on room 
air.

GI/GU/FEN: The patient was placed on regular home diet 
throughout hospitalization, which was well tolerated. Patient's 
intake and output were closely monitored.

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
1. bimatoprost 0.01 % ophthalmic (eye) Other 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H 
3. Finasteride 5 mg PO DAILY 
4. ketoconazole 2 % topical DAILY 
5. Simvastatin 20 mg PO QPM 
6. Sulfacetamide-Prednisolone Ophth. Susp. 1 DROP BOTH EYES BID 
7. Tamsulosin 0.4 mg PO QHS 
8. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral DAILY 
9. FoLIC Acid ___ mcg PO DAILY 
10. Pyridoxine 50 mg PO DAILY 
11. Ranitidine 75 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Lidocaine 5% Patch 1 PTCH TD QAM  
3.  bimatoprost 0.01 % ophthalmic (eye) Other  
4.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H  
5.  Excedrin Migraine (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral DAILY  
6.  Finasteride 5 mg PO DAILY  
7.  FoLIC Acid ___ mcg PO DAILY  
8.  Ketoconazole 2 % topical DAILY  
9.  Pyridoxine 50 mg PO DAILY  
10.  Ranitidine 75 mg PO DAILY  
11.  Simvastatin 20 mg PO QPM  
12.  Sulfacetamide-Prednisolone Ophth. Susp. 1 DROP BOTH EYES 
BID  
13.  Tamsulosin 0.4 mg PO QHS  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Minimally displaced Right posterior ___ rib fractures and 
Right 6th rib fracture

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
a fall and was found to have several minimally displaced rib 
fractures You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

It was a pleasure taking care of you,
Your ___ Team

 
Followup Instructions:
___